US04080505
In 3 ml of toluene is dissolved 2.8 g of 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionamide, and to the solution are added 1.0 g of acetic anhydride and one drop of concentrated sulfuric acid. The mixed solution is stirred under heating at 100° to 110° C for 1.5 hour. After cooling, the solvent is distilled off and water is added to the residue. The resulting crystals are recrystallized from ethanol to give 2.8 g of N-acetyl-2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionamide.

reactant | 2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionamide | 2.8 g | ClC(C(=O)N)CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C | C19H22ClNO2
reactant | acetic anhydride | 1.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | N-acetyl-2-chloro-3-[4-(2,2-dimethyl-2-phenylethyloxy)phenyl]propionamide | 2.8 g | C(C)(=O)NC(C(CC1=CC=C(C=C1)OCC(C1=CC=CC=C1)(C)C)Cl)=O | C21H24ClNO3
